US07884109B2
Synthesis of trans-4-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexanecarboxylic acid
A solution of trans-methyl 4-(2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexanecarboxylate (5 mg) in THF was treated with an aqueous solution of KOH (35 mg) in 2 mL of water. The mixture was heated at 50° C. for 12 hours. The mixture was acidified with TFA and concentrated. Silica gel chromatography (60:30:10 DCM:EtOAc:MeOH) provided 4.3 mg of the title compound. 1H-NMR (300 MHz, CDCl3) δ 9.0 (s, 1H), 8.3 (dd, 1H), 8.1 (s, 1H), 7.7 (dd, 1H), 7.1 (td, 1H), 4.3 (m, 1H), 2.4 (m, 3H), 2.2 (m, 2H), 1.9 (m, 2H), 1.6 (m, 2H).

reactant | trans-methyl 4-(2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexanecarboxylate | 5 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CC[C@H](CC2)C(=O)OC)=O)C1 | C20H19FN6O3
reactant | KOH | 35 mg | [OH-].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | trans-4-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexanecarboxylic acid | 4.3 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CC[C@H](CC2)C(=O)O)=O)C1 | C19H17FN6O3
